US08809369B2
The mixture solution of 2-(3-bromo-phenyl)-4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinoline (150 mg, 0.33 mmol), copper(I) iodide (20 mg, 0.1 mmol), morpholine (1.3 mL, 14.7 mmol), N,N-dimethylglycine hydrochloride (34.0 mg, 0.24 mmol) and potassium carbonate (110 mg, 1.0 mmol) in dimethyl sulfoxide (2.0 mL). was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature and extracted with ethyl acetate (70 mL×2), washed with water (30 mL×3) and saturated aqueous ammonium chloride solution (30 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 4,4-dimethyl-6-(morpholine-4-sulfonyl)-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline (124.3 mg, 80.0%) as a white solid: MS (ESI) M+1=472.2.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinoline | 0.33 mmol, 150 mg | BrC=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)S(=O)(=O)N1CCOCC1 | C21H25BrN2O3S
reactant | morpholine | 14.7 mmol, 1.3 mL | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylglycine hydrochloride | 0.24 mmol, 34.0 mg | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 1.0 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2.0 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.1 mmol, 20 mg | [Cu]I
product | 4,4-dimethyl-6-(morpholine-4-sulfonyl)-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline | 124.3 mg, 80.0% | CC1(CC(NC2=CC=C(C=C12)S(=O)(=O)N1CCOCC1)C1=CC(=CC=C1)N1CCOCC1)C | C25H33N3O4S
